US06348622B1
In a dry flask, 60 mg (0.13 mmol) of 1,5-dihydroxy-3,7-dimethyl-9-(2,6,6-trimehylcyclohexene-1-yl)-9-(4-methylphenysulfonyl)-nona-2,6-diene (hereinafter, referred to as compound [IV-1]) was charged and dissolved in 20 ml of n-hexane, and 3.4 mg (0.013 mmol) of n-dodecyltrimethylammonium chloride, 14 mg (0.13 mmol) of sodium carbonate and 13.3 mg (0.13 mmol) of acetic anhydride were added thereto. After stirring at room temperature for twenty hours, disappearance of the starting material was confirmed, and then water was added to the reaction mass. After extracting with ether, the organic layer was washed with an aqueous solution of ammonium chloride and a saturated aqueous solution of sodium chloride in order. After drying over anhydrous magnesium sulfate, the organic layer was concentrated to give a crude product. The crude product was purified by silica gel chromatography to give l-acetoxy-5-hydroxy-3,7-dimethyl-9-(2,6,6-trimethylcyclohexene-1-yl)-9-(4-methylphenylsulfonyl)-nona-2,6-diene (hereinafter, referred to as compound [III-1]) in a yield of 92%.

reactant | 1,5-dihydroxy-3,7-dimethyl-9-(2,6,6-trimehylcyclohexene-1-yl)-9-(4-methylphenysulfonyl)-nona-2,6-diene | 0.13 mmol, 60 mg | OCC=C(CC(C=C(CC(S(=O)(=O)C1=CC=C(C=C1)C)C1=C(CCCC1(C)C)C)C)O)C | C27H40O4S
reactant | sodium carbonate | 0.13 mmol, 14 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetic anhydride | 0.13 mmol, 13.3 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | n-hexane | 20 ml | CCCCCC | C6H14
catalyst | n-dodecyltrimethylammonium chloride | 0.013 mmol, 3.4 mg | [Cl-].C(CCCCCCCCCCC)[N+](C)(C)C
product | l-acetoxy-5-hydroxy-3,7-dimethyl-9-(2,6,6-trimethylcyclohexene-1-yl)-9-(4-methylphenylsulfonyl)-nona-2,6-diene | yield of 92% | C(C)(=O)OCC=C(CC(C=C(CC(S(=O)(=O)C1=CC=C(C=C1)C)C1=C(CCCC1(C)C)C)C)O)C | C29H42O5S
